US08309580B2
3-[{[4-({1-[5-(4-methoxyphenyl)-2-methylfuran-3-yl]-3-methylbutyl}amino)phenyl]carbonyl}(methyl)amino]propanoic acid
A mixture of 5-[4-(1-chloro-3-methylbutyl)-5-methylfuran-2-yl]-2-methoxypyridine (382 mg), ethyl 3-{[(4-aminophenyl)carbonyl](methyl)amino}propanoate (400 mg), sodium carbonate (170 mg) and sodium iodide (240 mg) in N,N-dimethylacetamide (10 mL) was stirred overnight at 80° C. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (25% ethyl acetate/hexane to 65% ethyl acetate/hexane) to give ethyl 3-[{[4-({1-[5-(4-methoxyphenyl)-2-methylfuran-3-yl]-3-methylbutyl}amino)phenyl]carbonyl}(methyl)amino]propanoate. Ethyl 3-[{[4-({1-[5-(4-methoxyphenyl)-2-methylfuran-3-yl]-3-methylbutyl}amino)phenyl]carbonyl}(methyl)amino]propanoate was dissolved in ethanol (2 mL) and tetrahydrofuran (2 mL) and 1N lithium hydroxide (1.0 mL) was added, and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and water (10 mL) was added. The mixture was neutralized with 1N hydrochloric acid under ice-cooling, and stirred for 1 hr. The resulting precipitate was collected by filtration and dried to give the title compound (210 mg, 34%).

reactant | Ethyl 3-[{[4-({1-[5-(4-methoxyphenyl)-2-methylfuran-3-yl]-3-methylbutyl}amino)phenyl]carbonyl}(methyl)amino]propanoate | COC1=CC=C(C=C1)C1=CC(=C(O1)C)C(CC(C)C)NC1=CC=C(C=C1)C(=O)N(CCC(=O)OCC)C | C30H38N2O5
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 1N, 1.0 mL | [OH-].[Li+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[{[4-({1-[5-(4-methoxyphenyl)-2-methylfuran-3-yl]-3-methylbutyl}amino)phenyl]carbonyl}(methyl)amino]propanoic acid | 210 mg, 34% | COC1=CC=C(C=C1)C1=CC(=C(O1)C)C(CC(C)C)NC1=CC=C(C=C1)C(=O)N(CCC(=O)O)C | C28H34N2O5
